US06403610B1
A solution of 2.59 g of sodium hydroxide pellets in 27 cm3 of distilled water and then 0.27 cm3 of aliquat 336 (tricaprylylmethylammonium chloride) were added, with stirring and under an inert atmosphere, to a mixture, maintained at a temperature in the region of 23° C., of 7.5 g of 3,5-difluorothiophenol in 9.01 cm3 of 1,2-dibromoethane. After stirring for 15 minutes at a temperature in the region of 20° C., 50 cm3 of dichloromethane were added to the mixture and then, after a few minutes, the organic phase was separated by settling, washed with 25 cm3 of water and 25 cm3 of a saturated 10% sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 40-63 μm; diameter 5 cm; height 30 cm), elution was carried out with cyclohexane, and first a fraction of 500 cm3 was collected, followed by 50-cm3 fractions. Fractions 9 to 26 were combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 5.9 g of 1-[(2-bromoethyl)thio]-3,5-difluorobenzene were obtained in the form of a colorless liquid. Infrared spectrum (CCl4): 3094, 1607, 1587, 1429, 1192, 1122, 988, 876, 841, and 667 cm−1.

reactant | sodium hydroxide | 2.59 g | [OH-].[Na+]
reactant | 3,5-difluorothiophenol | 7.5 g | FC=1C=C(C=C(C1)F)S | C6H4F2S
reactant | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
reactant | 1,2-dibromoethane | 9.01 cm3 | BrCCBr | C2H4Br2
solvent | water | 27 cm3 | O | H2O
catalyst | aliquat 336 | 0.27 cm3 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 1-[(2-bromoethyl)thio]-3,5-difluorobenzene | 5.9 g | BrCCSC1=CC(=CC(=C1)F)F | C8H7BrF2S
